US09029536B2
D) 3-[5-(Benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine
A mixture of [5-(benzyloxy)pyridin-2-yl] (3-fluoropyridin-2-yl)methanone (2.85 g) and hydrazine monohydrate (1.348 mL) in EtOH (10 mL) was stirred at 50° C. overnight. After cooling, insoluble material was filtrated and washed with EtOH. The filtrate was evaporated, treated with water and extracted with AcOEt. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (0.232 g).

reactant | [5-(benzyloxy)pyridin-2-yl] (3-fluoropyridin-2-yl)methanone | 2.85 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)C1=NC=CC=C1F | C18H13FN2O2
reactant | hydrazine monohydrate | 1.348 mL | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-[5-(Benzyloxy)pyridin-2-yl]-1H-pyrazolo[4,3-b]pyridine | 0.232 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C1=NNC=2C1=NC=CC2 | C18H14N4O
